US06723735B1
A solution of 1-(3-nitrophenyl)-1H-imidazole (6.5 g, 34 mmol) in glacial acetic acid (50 ml) was treated with 10% palladium on charcoal (320 mg) and hydrogenated at 50 psi until hydrogen uptake ceased (ca. 3 hours). The mixture was filtered through a glass microfibre filter paper (Whatman GF/A) and evaporated to dryness. The residue was azeotroped twice with toluene to give 3-(imidazol-1-yl)phenylamine as a yellow oil (5.5 g, 100%) which was used without purification. m/z (ES+) 360 (M++H).

reactant | 1-(3-nitrophenyl)-1H-imidazole | 34 mmol, 6.5 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C=NC=C1 | C9H7N3O2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 320 mg | [Pd] | Pd
product | 3-(imidazol-1-yl)phenylamine | 5.5 g, 100% | N1(C=NC=C1)C=1C=C(C=CC1)N | C9H9N3
